US04101579
5-(N,N-Dibenzylglycyl)salicylamide (37.4 g) was heated at reflux for 2 hours with methyl iodide (10 ml) and anhydrous potassium carbonate (20 g) in ethyl methyl ketone (350 ml). The inorganic salts were filtered off and the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate, washed with water and again evaporated. The residual oil was crystallised from isopropanol to give 5-(N,N-dibenzylglycyl)-o-anisamide as a white solid, (14 g) m.p. 113°-114° .

reactant | 5-(N,N-Dibenzylglycyl)salicylamide | 37.4 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)O)CC1=CC=CC=C1 | C23H22N2O3
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 350 ml | CC(=O)CC | C4H8O
product | 5-(N,N-dibenzylglycyl)-o-anisamide | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)OC)CC1=CC=CC=C1 | C24H24N2O3
